US05698584
To a mixture of hydroquinone(24 g, 0.22 mol) and ethyl bromoacetate(24 mL, 0.22 mol) in DMF(300 mL) was added 10M aq. NaOH(22 mL, 0.22 mol). The mixture was stirred at 0° C. for 1 h, diluted with H2O, acidified with 6M aq. HCl and extracted with EtOAc. The EtOAc extract was dried(anhydrous MgSO4) and concentrated in vacuo. The residue was swished with Et2O to give ethyl 4-hydroxyphenoxyacetate (5.8 g) as a white powder.

reactant | hydroquinone | 0.22 mol, 24 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | ethyl bromoacetate | 0.22 mol, 24 mL | BrCC(=O)OCC | C4H7BrO2
reactant | NaOH | 0.22 mol, 10M, 22 mL | [OH-].[Na+]
reactant | HCl | 6M | Cl | ClH
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | ethyl 4-hydroxyphenoxyacetate | 5.8 g | OC1=CC=C(OCC(=O)OCC)C=C1 | C10H12O4
